US05073550
A mixture of 2.80 g of 7-mercapto-5-methylpyrazolo[1,5-a]pyrimidine-3-carboxamide ammonium salt and 3.38 g of (7R)-7-aminocephalosporanic acid was treated with 25 ml of a 20 percent solution of boron trifluoride in acetonitrile and stirred at 20° for 40 minutes. The reaction mixture was treated with 30 ml of water and the pH was adjusted to 3.5 by means 28 percent aqueous sodium hydroxide solution. The precipitate thus formed was filtered off under suction and was chromatographed on OPTI-UP (C12) (ANTEC AG, CH-Bennwil) using water as the eluent. There was obtained (6R,7R)-7-amino-3-[[(3-carbamoyl-5-methylpyrazolo[1,5-a]-pyrimidin-7-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo-[4.2.0]oct-2-ene-2-carboxylic acid.

reactant | 7-mercapto-5-methylpyrazolo[1,5-a]pyrimidine-3-carboxamide ammonium salt | 2.80 g | [NH4+].SC1=CC(=NC=2N1N=CC2C(=O)[NH-])C
reactant | (7R)-7-aminocephalosporanic acid | 3.38 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | boron trifluoride | B(F)(F)F | BF3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | 30 ml | O | H2O
product | (6R,7R)-7-amino-3-[[(3-carbamoyl-5-methylpyrazolo[1,5-a]-pyrimidin-7-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo-[4.2.0]oct-2-ene-2-carboxylic acid | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=CC2C(N)=O)C | C16H16N6O4S2
